US07692005B2
5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.150 g, 0.380 mmol) and ethyl formate (0.090 mL, 1.12 mmol) were dissolved in anhydrous ethanol (4 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (0.71 mL, 1.9 mmol). This reaction mixture was heated at 78° C. for 0.5 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a tan precipitate. The suspension was filtered and the solids were subsequently washed with 0° C. EtOH to afford the pure 5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.105 g, 0.248 mmol, 65%).

reactant | 5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.380 mmol, 0.150 g | O=C1NC2=CC(=CC=C2C1)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1Cl)C | C20H15ClN4O3
reactant | ethyl formate | 1.12 mmol, 0.090 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | EtOH | CCO | C2H6O
solvent | ethanol | 1.9 mmol, 0.71 mL | C(C)O | C2H6O
product | 5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.248 mmol, 0.105 g, 65% | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1Cl)C)=O | C21H15ClN4O4
